US04040907
DGMA Conjugate to Glucose-6-Phosphate Dehydrogenase (G-6-PDH)
Following the procedure described above, 10mg of the T4 methyl ester diglycolate in 0.52ml dry DMF was reacted with 1.3mg NHS and 2.3mg ECDI. To 8.7mg G-6-PDH (0.08μ mole) in 1.65ml 1mg/ml sodium bicarbonate was added 5mg G-6-P and 12.5mg NADH, followed by 0.335ml DMF, followed by 9.5μmole ester prepared above in 0.215ml DMF. In 4 hours, a 47% loss in activity was observed. The hapten number was found to be 12 by UV and 13.2 by iodine analysis.

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | G-6-P | 5mg | C(C(C(C(C(C=O)O)O)O)O)OP(=O)(O)O.[Ba]
reactant | NADH | 12.5mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | iodine | II | I2
solvent | DMF | 0.52ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.215ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.335ml | CN(C)C=O | C3H7NO
product | Glucose-6-Phosphate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
